US09376422B2
Step 5: synthesis of N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzamide
A mixture of methyl 3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate (300 mg, 0.98 mmol) and NaOH (58 mg, 1.47 mmol) in 5 ml of ethanol and water (3:2) was heated at 70° C. for 2 h. The reaction mixture was concentrated to dryness and the residue was partitioned between water and ethyl acetate. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to afford 270 mg of the crude acid. The crude acid (270 g, 0.92 mmol), 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one (282 mg, 1.85 mmol), PyBOP (717 mg, 1.38 mmol) and triethylamine (0.12 ml, 0.92 mmol) were stirred in 3 ml of DMSO at room temperature overnight. The reaction mixture was diluted with water and extracted with 10% MeOH in DCM. The combined organic phases were dried over Na2SO4, concentrated and the residue purified by silica gel column chromatography to give the title compound N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzamide as a mixture of isomers (120 mg, 30%). LCMS: 426.45 (M+1)+; HPLC: 62.09 & 33.24% (@ 210-370 nm) (Rt; 3.982 & 4.164; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.44 (s, 1H), 8.04 (m, 1H), 7.12 (s, 2H), 6.91 (m, 1H), 5.85 (s, 1H), 4.25 (d, 2H, J=4 Hz), 4.15 (m, 1H), 3.00 (m, 2H), 2.84 (m, 1H), 2.18 (s, 6H), 2.10 (s, 3H), 1.75-1.60 (m, 2H), 1.55-1.35 (m, 4H), 1.35-1.15 (m, 4H), 1.08 & 1.03 (s, 3H), 0.87 & 0.77 (t, 3H).

reactant | methyl 3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzoate | 0.98 mmol, 300 mg | C(C)N(C=1C(=C(C(=O)OC)C=CC1)C)C1CCC(CC1)(C)O | C18H27NO3
reactant | NaOH | 1.47 mmol, 58 mg | [OH-].[Na+]
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2(1H)-one | 1.85 mmol, 282 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
reactant | PyBOP | 1.38 mmol, 717 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.92 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-(ethyl(4-hydroxy-4-methylcyclohexyl)amino)-2-methylbenzamide | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC=C1)N(C1CCC(CC1)(C)O)CC)C)=O | C25H35N3O3
